US06156782
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(4-methoxyphenyl)pyrazole
To a rapidly stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole (0.447 g) in toluene (2 ml) containing tetrakis(triphenylphosphine)palladium(0) (0.02 g) was added saturated aqueous sodium hydrogen carbonate solution (1 ml) and a solution of 4-methoxyphenylboronic acid (0.302 g) in ethanol (1 ml). The mixture was heated under reflux for 2.75 hours, then left at room temperature overnight. Saturated aqueous sodium hydrogen carbonate solution (0.5 ml) and tetrakis(triphenylphosphine)palladium(0) (0.01 g) were added and the mixture heated under reflux for 3 hours. The cooled reaction mixture was then poured into ether (25 ml) and water (25 ml). The organic layer was separated, dried (MgSO4) and evaporated. The residue was purified by column chromatography on silica gel (50 g) eluted with dichloromethane. Combination and evaporation of suitable fractions gave the title compound as an off-white crystalline solid, m.p. 222° C. with softening at 192° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole | 0.447 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4
reactant | sodium hydrogen carbonate | 1 ml | C(O)([O-])=O.[Na+]
reactant | 4-methoxyphenylboronic acid | 0.302 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | sodium hydrogen carbonate | 0.5 ml | C(O)([O-])=O.[Na+]
reactant | ether | 25 ml | CCOCC | C4H10O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 25 ml | O | H2O
product | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(4-methoxyphenyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=CC=C(C=C1)OC | C18H11Cl2F3N4O
